US06329550B1
3.3 Synthesis of N,N′-diphenethyl-2-((S)-2-thioacetyl-4-phenylbutyrylamino)malonamide
Combine N,N′-diphenethyl-2-aminomalonamide trifluoroacetic acid salt (0.50 g, 1.0 mmol) and dichloromethane (15 mL). Add (R)-2-thioacetyl-4-phenylbutyric acid (0.545 g, 1.0 mmol), N-methylmorpholine (0.22 mL, 2.0 mmol), and 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloric acid salt (0.23 g, 1.2 mmol), and 1-hydroxybenztriazole hydrate (0.16 g, 1.2 mmol). After 18 hours, evaporate the reaction mixture in vacuo, dilute the concentrated reaction mixture with ethyl acetate, extract with an aqueous 5% sulfuric acid solution, a saturated sodium bicarbonate solution, and then brine. Extract each aqueous layer with ethyl acetate. Combine the organic layers, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 3/2 ethyl acetate/hexane to give the title compound (92%).

reactant | N,N′-diphenethyl-2-aminomalonamide trifluoroacetic acid salt | 1.0 mmol, 0.50 g | FC(C(=O)O)(F)F.C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)N)=O
reactant | (R)-2-thioacetyl-4-phenylbutyric acid | 1.0 mmol, 0.545 g | C(C)(=S)[C@@H](C(=O)O)CCC1=CC=CC=C1 | C12H14O2S
reactant | N-methylmorpholine | 2.0 mmol, 0.22 mL | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloric acid salt | 1.2 mmol, 0.23 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenztriazole hydrate | 1.2 mmol, 0.16 g | O.ON1N=NC2=C1C=CC=C2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N,N′-diphenethyl-2-((S)-2-thioacetyl-4-phenylbutyrylamino)malonamide | 92% | C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)NC([C@H](CCC1=CC=CC=C1)C(C)=S)=O)=O | C31H35N3O3S
